US08003649B2
A mixture of 4-[5-(trifluoromethyl)pyridin-3-yl]piperidin-4-ol and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by the method of Example 306 to give 4-[5-(trifluoromethyl)pyridin-3-yl]-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol in 75% yield.

reactant | 4-[5-(trifluoromethyl)pyridin-3-yl]piperidin-4-ol | FC(C=1C=C(C=NC1)C1(CCNCC1)O)(F)F | C11H13F3N2O
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 4-[5-(trifluoromethyl)pyridin-3-yl]-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 75% yield | FC(C=1C=C(C=NC1)C1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)O)(F)F | C17H14F6N6O
